US04372953
1-Methyl-5-mercapto-1,2,3,4-tetrazole (2.4 g) and N-ethyl-N-propionyl-3-chloropropylamine (3.6 g) are dissolved in acetone (50 ml). To the mixture are added potassium carbonate (2.8 g) and potassium iodide (0.1 g), and the mixture is refluxed for 4 hours. After acetone is distilled off, the residue is added to water and extracted with chloroform. The chloroform solution is washed with saturated aqueous sodium chloride and dried over sodium sulfate. After chloroform is distilled off, the residue is purified by column chromatography (neutral alumina, made by Merck) and eluted with n-hexane to give 1-methyl-5-[3-(N-ethyl-N-propionylamino)propylthio]-1,2,3,4-tetrazole (1.2 g) as pale yellow liquid, nD21.5 =1.5220.

reactant | 1-Methyl-5-mercapto-1,2,3,4-tetrazole | 2.4 g | CN1N=NN=C1S | C2H4N4S
reactant | N-ethyl-N-propionyl-3-chloropropylamine | 3.6 g | C(C)N(C(CC)=O)CCCCl | C8H16ClNO
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-methyl-5-[3-(N-ethyl-N-propionylamino)propylthio]-1,2,3,4-tetrazole | 1.2 g | CN1N=NN=C1SCCCN(C(CC)=O)CC | C10H19N5OS
